US03992441
5-(cis-3,5-dimethylpiperidinosulfonyl)-6-chlorobenzoic Acid
An aqueous solution of 4.2 g. (105 m moles) of sodium hydroxide in 130 ml. of water is added to 18 g. (52.5 m moles) of methyl 5-(cis-3,5-dimethylpiperidinosulfonyl)-6-chlorobenzoate in 130 ml. of methanol, and resulting reaction mixture allowed to stir at 40° C. for 1 hr. The solution is poured into ice water (1.5 l.) and extracted several times with benzene. The aqueous phase is separated, acidified with12N hydrochloric acid, and the precipitated product filtered and air dried,17.3 g. Recrystallization from ethyl acetate-hexane gave the purified product, 16.4 g., m.p. 152.5°-153° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | methyl 5-(cis-3,5-dimethylpiperidinosulfonyl)-6-chlorobenzoate | C[C@@H]1CN(C[C@@H](C1)C)S(=O)(=O)C=1C=CC=C(C(=O)OC)C1Cl | C15H20ClNO4S
solvent | methanol | CO | CH4O
product | 5-(cis-3,5-dimethylpiperidinosulfonyl)-6-chlorobenzoic Acid | C[C@@H]1CN(C[C@@H](C1)C)S(=O)(=O)C=1C=CC=C(C(=O)O)C1Cl | C14H18ClNO4S
